Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Sulfonamides
 
Attending: ___.
 
Chief Complaint:
s/p Fall
 
Major Surgical or Invasive Procedure:
Suture repair of forehead laceration
 
History of Present Illness:
___ yo M s/p mechanical fall reportedly while trying to help his 
roomate up who had fallen. He was transported to ___ for 
further care.
 
Past Medical History:
___, OA, HTN, Hypercholesterolemia, Prostate CA  
PSH: Prostatectomy, Urinary sphincters x 2  

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Upon presentation to ___:
T:97.7 BP: 156/80   HR:63 R 18    O2Sats 98%
Gen: WD/WN, comfortable, NAD.
HEENT: large lac on forehead which was fixed by ED Pupils: PERRL 

EOMs full with no nystagmus
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4mm to
3mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch and proprioception bilaterally

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger

 
Pertinent Results:
___ 08:22AM   GLUCOSE-88 UREA N-25* CREAT-1.1 SODIUM-144 
POTASSIUM-4.0 CHLORIDE-107 TOTAL CO2-26 ANION GAP-15
___ 08:22AM   CALCIUM-9.2 PHOSPHATE-4.5 MAGNESIUM-2.3
___ 08:22AM   WBC-5.4 RBC-3.88* HGB-10.8* HCT-32.3* MCV-83 
MCH-27.8 MCHC-33.4 RDW-15.3
___ 08:22AM   PLT COUNT-189
___ 10:00PM   ___ PTT-27.3 ___

Micro/Imaging:
___ CT Head 7 mm Left frontal intraparenchymal hemorrhage, 
no fracture  
___ CXR no acute process  
___ C-Spine no fracture  

 
Brief Hospital Course:
He was admitted to the Trauma Service; his forehead laceration 
was repaired in the ED. Neurosurgery was consulted for the 
intraparenchymal hemorrhage; serial head CT scans and neurologic 
exams remained stable and intact. He will follow up in 
___ clinic in 4 weeks for repeat head CT imaging. 

His home medications were restarted and he was started on a 
regular diet for which he is tolerating. 

He was evaluated by Physical therapy and is being discharged to 
home with services. It should be noted that it was the 
recommendation of Physical therapy that patient go to a rehab 
facility but he declined the recommendation.
 
Medications on Admission:
Amitriptyline 25mg qHS  
Levothyroxine 0.05mg qdaily  
Micardis 40mg TID  
Catowet ___ daily  
Requipt 3mg TID  
Azolect 0.5mg daily 
ASA 81 mg daily
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
2. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Amitriptyline 25 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
5. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Ropinirole 1 mg Tablet Sig: Three (3) Tablet PO TID (3 times 
a day).  
7. Rasagiline 0.5 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
s/p Fall
Left frontal intraparenchymal hemorrhage
Head laceration
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted to the hospital after a fall. Your injuries 
included a small area of bleeding in your brain. You did not 
require any operations but were kept in the hospital for close 
observation. Your head CT scans remained stable and your mental 
status intact.

You were also seen by a physical therapist while in the hospital 
and are being discharged home with skilled nursing and physical 
therapy services.

 
Followup Instructions:
___